US05458814
The procedure of Step 2 of Example 1 was followed except that 1,1-diphenyl-2-propyn-1-ol was used in place of 1,1-bis(4-methoxyphenyl)-2-propyn-1-ol and 1-hydroxynaphthalene was used in place of methyl-1,4-dihydroxy-2-naphthoate to produce 2,2-diphenyl-[2H]-naphtho[1,2-b]pyran.

reactant | 1,1-diphenyl-2-propyn-1-ol | C1(=CC=CC=C1)C(C#C)(O)C1=CC=CC=C1 | C15H12O
reactant | 1-hydroxynaphthalene | OC1=CC=CC2=CC=CC=C12 | C10H8O
product | 2,2-diphenyl-[2H]-naphtho[1,2-b]pyran | C1(=CC=CC=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C=C2)C2=CC=CC=C2 | C25H18O
